US06399629B1
(A) N-tert-Butoxycarbonyl-trans-4-(3-Biphenyloxy)-L-Proline Methyl Ester
A solution of diethylazodicarboxylate (829 μL) in tetrahydrofuran (10 mL) was added to a cold (−15° C.) stirred solution of N-tert-butoxycarbonyl-trans-4-hydroxy-L-proline (1.23 g), 3-phenylphenol (896 mg), and triphenyl phosphine (1.38 g) in tetrahydrofuran (30 mL) under argon, After stirring at room temperature for 15.5 hr, the solvent was evaporated and coevaporated several times with toluene in vacuo. The residue was diluted with toluene and precipitated solids were removed by filtration, which was washed with toluene. The combined organic layers were evaporated in vacuo and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10, v/v) to give title compound (837 mg): 1H-NMR (400 MHz, CDCl3) δ 1.36-1.50 (m, 9H), 2.18-2.29 (m, 1H), 2.51-2.64 (m, 1H), 3.68-3.89 (m, 5H), 4.40-4.56 (m, 1H), 4.91-5.01 (m, 1H), 6.79-6.87 (m, 1H), 7.04-7.10 (m, 1H), 7.17-7.24 (m, 1H), 7.29-7.39 (m, 2H), 7.39-7.49 (m, 2H), and 7.49-7.60 (m, 2H).

reactant | diethylazodicarboxylate | 829 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-tert-butoxycarbonyl-trans-4-hydroxy-L-proline | 1.23 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | 3-phenylphenol | 896 mg | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
reactant | triphenyl phosphine | 1.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-trans-4-(3-Biphenyloxy)-L-Proline Methyl Ester | 837 mg | COC([C@H]1N(C[C@@H](C1)OC=1C=C(C=CC1)C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C23H27NO5
